data/mechanisms/records/IMS8-EQT8.2p.json
{"mechanism_id": "IMS8-EQT8.2p", "species": [{"species_id": "cyclohexanone_radical_cation", "mapped_smiles": "[C:1]1(=[O+:7])[CH:2]([1H:10])[CH2:3][CH2:4][CH2:5][CH2:6]1", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "ring_opened_distonic_acylium", "mapped_smiles": "[C:1](#[O+:7])[CH:2]([1H:10])[CH2:3][CH2:4][CH2:5][CH2:6]", "role": "intermediate", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "h_shifted_distonic_acylium", "mapped_smiles": "[C:1](#[O+:7])[CH:2][CH2:3][CH2:4][CH2:5][CH2:6][1H:10]", "role": "intermediate", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "acryloyl_cation", "mapped_smiles": "[C:1](#[O+:7])[CH:2]=[CH2:3]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "n_propyl_radical", "mapped_smiles": "[CH2:4][CH2:5][CH2:6][1H:10]", "role": "neutral_radical", "charge": 0, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["cyclohexanone_radical_cation"]}, {"state_id": "state_ring_opened", "species_ids": ["ring_opened_distonic_acylium"]}, {"state_id": "state_h_shifted", "species_ids": ["h_shifted_distonic_acylium"]}, {"state_id": "state_products", "species_ids": ["acryloyl_cation", "n_propyl_radical"]}], "steps": [{"step_id": "step_alpha_ring_opening", "from_state": "state_precursor", "to_state": "state_ring_opened", "step_class": "alpha_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "radical_orbital", "atom_maps": [7]}, "target": {"type": "bond", "atom_maps": [1, 7]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 6]}, "target": {"type": "bond", "atom_maps": [1, 7]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 6]}, "target": {"type": "atom", "atom_maps": [6]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}, {"step_id": "step_rH_1_5", "from_state": "state_ring_opened", "to_state": "state_h_shifted", "step_class": "hydrogen_rearrangement", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "radical_orbital", "atom_maps": [6]}, "target": {"type": "bond", "atom_maps": [6, 10]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [2, 10]}, "target": {"type": "bond", "atom_maps": [6, 10]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [2, 10]}, "target": {"type": "atom", "atom_maps": [2]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}, {"step_id": "step_alpha_second", "from_state": "state_h_shifted", "to_state": "state_products", "step_class": "alpha_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "radical_orbital", "atom_maps": [2]}, "target": {"type": "bond", "atom_maps": [2, 3]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [3, 4]}, "target": {"type": "bond", "atom_maps": [2, 3]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [3, 4]}, "target": {"type": "atom", "atom_maps": [4]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "ev_step_alpha1", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_alpha_ring_opening", "support_type": "textbook_proposed", "locator": {"page": 168, "equation": "Table 8.2", "figure": null, "panel": null, "section": null}, "confidence": 0.85, "curator_note": "Table 8.2 (printed p.168), first example row: 'Three bonds cleaved', OE+. reactant type alpha-alpha-alpha, charge-RETENTION channel. Step 1 of the printed three-arrow sequence: n-ionised cyclohexanone undergoes radical-site alpha cleavage of a ring C(alpha)-C(carbonyl) bond, which does NOT expel a fragment but OPENS THE RING to a distonic acylium (+O#C-CH2CH2CH2CH2-CH2.). Bond-line pixel analysis of the scan confirms the printed intermediate carries a TRIPLE C#O bond (three parallel rules) whereas the cyclohexanone reactant carries a double bond, i.e. the book really draws the acylium. Book draws 2 arcs; moves 1,2 are drawn, move 3 is an implicit homolysis hook required for electron balance (not drawn on the page)."}, {"evidence_id": "ev_step_rh", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_rH_1_5", "support_type": "textbook_proposed", "locator": {"page": 168, "equation": "Table 8.2", "figure": null, "panel": null, "section": null}, "confidence": 0.8, "curator_note": "Step 2 of the row, printed over the arrow as 'rH'. The book redraws the open six-carbon chain coiled into a hexagon so the terminal carbon radical (map 6) faces an explicitly drawn H on the carbon alpha to the acylium (map 2); the transfer is therefore a 1,5-H shift through a six-membered transition state and it moves the radical site from the chain terminus to the position alpha to the C#O+ group. Book draws 2 arcs; moves 1,2 are drawn, move 3 is an implicit homolysis hook required for electron balance (not drawn on the page)."}, {"evidence_id": "ev_step_alpha2", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_alpha_second", "support_type": "textbook_proposed", "locator": {"page": 168, "equation": "Table 8.2", "figure": null, "panel": null, "section": null}, "confidence": 0.85, "curator_note": "Step 3 of the row, printed over the arrow as 'alpha'. The new radical site (map 2) drives a second alpha cleavage: the C3-C4 bond breaks and the C2=C3 pi bond forms, giving the even-electron acryloyl cation CH2=CH-C#O+ and the printed neutral loss '.C3H7'. Three bonds of the original ring have now been cleaved (alpha, alpha, alpha), which is what puts this example in the 'Three bonds cleaved' block of the table. Book draws 2 arcs; moves 1,2 are drawn, move 3 is an implicit homolysis hook required for electron balance (not drawn on the page)."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "70 eV EI", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 98.0726, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_acryloyl", "species_id": "acryloyl_cation", "step_id": "step_alpha_second", "observed_mz": 55.0178, "hydrogen_shift": 0, "isotope_offset": 0, "status": "inferred", "confidence": 0.6}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-28T00:00:00Z", "modified_at": "2026-07-28T00:00:00Z"}}
